US06274588B1
To a suspension of 3.81 g (46.54 mmol) sodiumacetate and 6.47 g (23.27 mmol) S-methylisothiourea sulfate in 100 ml N,N-dimethylformamide a solution of 6.90 g (21.15 mmol) 2-(2-bromo-benzoyl)-3-dimethylamino-acrylic acid ethyl ester in 20 ml N,N-dimethylformamide was added at once and the resulting reaction mixture was stirred for 16 hrs. at 90°. The solvent was evaporated and the residue distributed between 100 ml CH2Cl2 and 100 ml H2O. The aqueous phase was extracted twice with 100 ml CH2Cl2. The combined organic layers were dried (MgSO4), filtered and evaporated. The residue was purified by chromatography (SiO2, CH2Cl2) to give 5.20 g (69%) 4-(2-bromo-phenyl)-2-methylsulfanyl-pyrimidine-5-carboxylic acid ethyl ester as a pale green oil.

reactant | sodiumacetate | 46.54 mmol, 3.81 g | C(C)(=O)[O-].[Na+]
reactant | S-methylisothiourea sulfate | 23.27 mmol, 6.47 g | S(=O)(=O)(O)O.CSC(N)=N
reactant | 2-(2-bromo-benzoyl)-3-dimethylamino-acrylic acid ethyl ester | 21.15 mmol, 6.90 g | C(C)OC(C(=CN(C)C)C(C1=C(C=CC=C1)Br)=O)=O | C14H16BrNO3
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-(2-bromo-phenyl)-2-methylsulfanyl-pyrimidine-5-carboxylic acid ethyl ester | 5.20 g, 69% | C(C)OC(=O)C=1C(=NC(=NC1)SC)C1=C(C=CC=C1)Br | C14H13BrN2O2S
